US07148226B2
6-[2-(3-Chloro-5-ethyl-4-hydroxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione
Trifluoroacetic acid (0.07 mL, 0.88 mmol) was added to a solution of 6-{2-[3-Chloro-5-ethyl-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl}-6-cyclopentyl-dihydro-pyran-2,4-dione (0.2 g, 0.44 mmol) dissolved in CH2Cl2 (4 mL). The reaction mixture was stirred for 2 hours at room temperature and then partitioned between H2O and EtOAc. The organic extracts were washed with brine, dried over Na2SO4 and concentrated to an oil. The oil was purified by flash column chromatography (0% to 30% EtOAc in hexanes) to give the title compound as a solid. (0.12 g, 75%). 1H NMR (400 MHz, CDCl3): δ 1.21 (t, J=7.6 Hz, 3 H), 1.58–173 (br m, 8 H), 1.92 (m, 2 H), 2.26 (m, 1 H), 2.57 (m, 2 H), 2.65 (q, J=7.6 Hz, 2 H), 2.76 (s, 2 H), 3.43 (s, 2 H), 5.47 (s, 1 H), 6.81 (s, 1 H), 6.95 (s, 1 H). MS: C20H24O4Cl (M−H) 363.10.

reactant | Trifluoroacetic acid | 0.88 mmol, 0.07 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6-{2-[3-Chloro-5-ethyl-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethyl}-6-cyclopentyl-dihydro-pyran-2,4-dione | 0.44 mmol, 0.2 g | ClC=1C=C(C=C(C1OCOCCOC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C24H33ClO6
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-(3-Chloro-5-ethyl-4-hydroxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1O)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C20H25ClO4
